US05929067
d) 3-[N'-(3,5-Bistrifluoromethyl-benzoyl)-N'-methyl-amino]-4-(2-naphthyl)-butanoic acid
25.3 g (91.4 mmol) of 3,5-bistrifluoromethyl-benzoyl chloride followed by 13.3 ml (95.6 mmol) of triethylamine are added dropwise over a period of 5 minutes to a solution of 22.5 g (83.1 mmol) of 3-methylamino-4-(2-naphthyl)-butanoic acid ethyl ester in 500 ml of tert-butyl methyl ether. After 12 hours at room temperature, 16.6 g (415 mmol) of sodium hydroxide dissolved in 150 ml of methanol are added over a period of 10 minutes and the mixture is stirred for 5 hours. Then, at 0° C., 275 ml of 2N hydrochloric acid are added and the mixture is washed with 300 ml of ethyl acetate. After concentration in a rotary evaporator, the title compound crystallises out from tert-butyl methyl ether/hexane in the form of white needles. M.p.: 128-130° C.; IR: 3400-2500 (b), 1710, 1635 cm1 ; 1H-NMR, 200 MHz, CDCl3, delta, (ppm): 7.9-6.93 (m, 10H), 5.01, 4.30 (2m, rotamer, 1H), 3.9-2.6 (m, 4H), 3.18, 2.68 (2s, rotamer, 3H).

reactant | 3,5-bistrifluoromethyl-benzoyl chloride | 91.4 mmol, 25.3 g | FC(C=1C=C(C(=O)Cl)C=C(C1)C(F)(F)F)(F)F | C9H3ClF6O
reactant | triethylamine | 95.6 mmol, 13.3 ml | C(C)N(CC)CC | C6H15N
reactant | 3-methylamino-4-(2-naphthyl)-butanoic acid ethyl ester | 83.1 mmol, 22.5 g | C(C)OC(CC(CC1=CC2=CC=CC=C2C=C1)NC)=O | C17H21NO2
reactant | sodium hydroxide | 415 mmol, 16.6 g | [OH-].[Na+]
reactant | hydrochloric acid | 2N, 275 ml | Cl | ClH
solvent | tert-butyl methyl ether | 500 ml | COC(C)(C)C | C5H12O
solvent | methanol | 150 ml | CO | CH4O
product | 3-[N'-(3,5-Bistrifluoromethyl-benzoyl)-N'-methyl-amino]-4-(2-naphthyl)-butanoic acid | FC(C=1C=C(C(=O)N(C)C(CC(=O)O)CC2=CC3=CC=CC=C3C=C2)C=C(C1)C(F)(F)F)(F)F | C24H19F6NO3
